US09403798B2
2-(4-Fluorobenzyl)morpholine
To a tetrahydrofuran solution (4 mL) of 6-(4-fluorobenzyl)morpholin-3-one (100 mg, 0.48 mmol) synthesized in Reference Synthesis Example 43, lithium aluminum hydride (21.8 mg, 0.57 mmol) was added at 0° C. and the resultant solution was stirred for 4 hours. To the reaction solution, lithium aluminum hydride (20.0 mg) was added and the resultant mixture was stirred at room temperature for 1 hour. After completion of the reaction, saturated sodium sulfate aqueous solution was added to the reaction solution at 0° C. and the resultant mixture was stirred at room temperature for 20 minutes. The reaction solution was dried over added anhydrous magnesium sulfate and concentrated under reduced pressure to obtain a crude product (84.9 mg) of the title compound.

reactant | 6-(4-fluorobenzyl)morpholin-3-one | 0.48 mmol, 100 mg | FC1=CC=C(CC2OCC(NC2)=O)C=C1 | C11H12FNO2
reactant | lithium aluminum hydride | 0.57 mmol, 21.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 20.0 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-(4-Fluorobenzyl)morpholine | 84.9 mg | FC1=CC=C(CC2CNCCO2)C=C1 | C11H14FNO
